US04496564
A mixture of 4-(2-bromopyrid-6-ylthio)butyramide (5 g.) and concentrated aqueous ammonia (25 ml.) was heated in a sealed tube at 180° for 24 hours. The mixture was cooled and diluted with water, and then extracted twice with EtOAc. The combined extracts were extracted twice with N aqueous HCl and the aqueous acid extracts were combined, basified with 10N aqueous NaOH, and extracted with EtOAc. The EtOAc extract was dried and evaporated to dryness to give 4-(2-aminopyrid-6-ylthio)butyramide.

reactant | 4-(2-bromopyrid-6-ylthio)butyramide | 5 g | BrC1=NC(=CC=C1)SCCCC(=O)N | C9H11BrN2OS
reactant | ammonia | 25 ml | N | H3N
solvent | water | O | H2O
product | 4-(2-aminopyrid-6-ylthio)butyramide | NC1=NC(=CC=C1)SCCCC(=O)N | C9H13N3OS
